US04244961
A mixture of 22.2 g 3-benzyl-8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one, 150 ml ethanol and 5 g, 5% palladium on barium sulfate is hydrogenated at 60 psi at room temperature for 90 minutes. After filtration and removal of solvent there is obtained 15.4 g of 3-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 69°-71°.

reactant | 3-benzyl-8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 22.2 g | C(C1=CC=CC=C1)N1C(OC2(C1)CCN(CC2)C(=O)OCC2=CC=CC=C2)=O | C22H24N2O4
catalyst | palladium on barium sulfate | 5 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 15.4 g | C(C1=CC=CC=C1)N1C(OC2(C1)CCNCC2)=O | C14H18N2O2
